US06569993B1
To a solution of Boc-Val-OH (25.4 g, 116.7 mmol) in ethyl acetate (85 mL) is added hydroxybenzotriazole hydrate (16.55 g, 122.5 mmol) in dimethylformamide (122.3 mL). The mixture is cooled to 5° C. and a solution of dicyclohexylcarbodiimide (25.2 g, 122.5 mmol) in ethyl acetate (58.7 mL) is added over 1 hour during which time the temperature rises to about 18° C. and dicyclohexyl urea precipitates. Cooling is ceased and the mixture is stirred for 2 hours and a solution of HCl.H2N-Asp(OAllyl)-OBzl (35 g, 116.7 mmol) in 189 mL of dimethylformamide is added over 25 minutes. N-methylmorpholine (12.8 mL) is added slowly and over 0.5 hours to attain a reaction mixture pH of 7 and the mixture is stirred at ambient temperature for 36 hours. The reaction mixture is filtered to remove dicyclohexyl urea, the filtrate is diluted with methyl-t-butyl ether, stirred for 2 hours, then refiltered. The filtrate is washed with 100 mL water, 100 mL 0.5M aqueous citric acid, 100 mL water, 100 mL saturated aqueous, sodium bicarbonate, 100 mL brine, dried (magnesium sulfate), filtered, and concentrated to give 41.3 g of Boc-Val-Asp(OAllyl)-OBzl as an oil. (Mcalc 462; M+1obsvd 463).

reactant | Boc-Val-OH | 116.7 mmol, 25.4 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | hydroxybenzotriazole hydrate | 122.5 mmol, 16.55 g | O.OC1=CC=CC=2NN=NC21
reactant | dicyclohexylcarbodiimide | 122.5 mmol, 25.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-methylmorpholine | 12.8 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl acetate | 85 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 58.7 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 122.3 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 189 mL | CN(C=O)C | C3H7NO
product | Boc-Val-Asp(OAllyl)-OBzl | 41.3 g | N([C@@H](C(C)C)C(=O)N[C@@H](CC(OCC=C)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C24H34N2O7
